US07291631B2
COMPOUND 311: (1H-benzoimidazol-2-yl)-{4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-methanone
A mixture of the (3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine (211 mg, 0.60 mmol), 1H-benzimidazole-2-carboxylic acid (107 mg, 0.66 mmol), HOBT (97 mg, 0.72 mmol), EDCI (142 mg, 0.72 mmol), and DIPEA (142 mg, 0.72 mmol) in DMF (5 mL) was stirred at room temperature overnight. The mixture was then diluted with CH2Cl2 (25 mL) and saturated NaHCO3 (3×20 mL). The organic layer was dried (MgSO4), filtered, and concentrated to afford a yellow oil. Purification by radial chromatography on silica gel (2 mm plate; using CH2Cl2/MeOH/NH4OH; 100:1:1→25:1:1) afforded the product as a white foam (160 mg, 54%). 1H NMR (CDCl3) δ 0.93 (t, 2H, J=6.9 Hz), 1.69-1.92 (m, 2H), 2.09 (br t, 3H, J=14.7 Hz), 2.18 (s, 3H), 2.27 (s, 3H), 2.68-2.83 (m, 2H), 2.87-2.94 (m, 1H), 3.04-3.13 (m, 1H), 3.79 (d, 2H, J=5.1 Hz), 3.86 (s, 2H), 4.94 (d, 1H, J=13.5 Hz), 6.16 (d, 1H, J=12.9 Hz), 7.15 (dd, 1H, J=7.8, 4.8 Hz), 7.25 (s, 1H), 7.31 (d, 2H, J=3.9 Hz), 7.50 (d, 2H, J=6.6 Hz), 7.82 (br s, 1H), 8.19 (s, 1H), 8.34 (dd, 1H, J=4.7, 1.2 Hz). 13C NMR (CDCl3) δ 18.31, 18.53, 23.60, 23.68, 27.35, 27.42, 28.66, 44.20, 47.20, 54.34, 57.35, 112.35, 121.26, 123.22, 125.11, 132.31, 133.26, 133.61, 133.92, 139.10, 143.52, 144.45, 145.85, 146.09, 146.64, 154.45, 156.28, 159.23. ES-MS m/z 497 [M+H]+. Anal. Calcd. for C30H36N6O.0.8CH2Cl2: C, 65.52; H, 6.71; N, 14.88. Found: C, 65.54; H, 6.62; N, 15.11.

reactant | (3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine | 0.60 mmol, 211 mg | CC=1C(=NC=C(C1)C)CN(C1CCNCC1)CC1=NC=CC=C1C(C)C | C22H32N4
reactant | 1H-benzimidazole-2-carboxylic acid | 0.66 mmol, 107 mg | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | HOBT | 0.72 mmol, 97 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.72 mmol, 142 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 0.72 mmol, 142 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | (1H-benzoimidazol-2-yl)-{4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-methanone | 160 mg, 54% | N1C(=NC2=C1C=CC=C2)C(=O)N2CCC(CC2)N(CC2=NC=CC=C2C(C)C)CC2=NC=C(C=C2C)C | C30H36N6O
